US07795283B2
A mixture of 65% nitric acid (6.2 mL) and 95% sulphuric acid (7.8 mL) in carbon tetrachloride (10 mL) was added dropwise to a solution of methyl trans-4-phenylcyclohexanecarboxylate (6940 mg) keeping the internal temperature below 5° C. The mixture was allowed to warm and stirred for 16 h. Ice/water (50 mL) was added and the mixture was extracted with DCM (2×75 mL). The extracts were combined, washed with brine (50 mL), dried and concentrated in vacuo to give an oil. This oil was chromatographed on an 80 g Biotage™ silica column, using a gradient of 0-20% EtOAc/hexane as the eluent to give crude methyl trans-4-(4-nitrophenyl)cyclohexanecarboxylate (4445 mg); MS m/e MH+ 264.10% Pd/C (450 mg) was added to a solution of this material (4440 mg) in EtOAc (50 mL) and the suspension was stirred for 16 hours under an atmosphere of hydrogen then filtered through diatomaceous earth and concentrated in vacuo. The residue was purified by chromatography on an 80 g Biotage™ silica column using a gradient of 0-50% EtOAc/hexane as eluent to give crude methyl trans-4-(4-aminophenyl)cyclohexanecarboxylate (2900 mg). A solution of this material (2890 mg) and pyridine (1.67 mL) in DCM (50 mL) was cooled to 5° C. Methyl chloro(oxo)acetate (1.48 mL) was added and the solution was allowed to warm up with stirring for 16 h. Water (75 mL) was added and the mixture was extracted with DCM (2×75 mL). The extracts were combined, dried, and concentrated in vacuo to give a solid. This solid was purified by flash chromatography on 80 g Biotage™ silica column eluting with a gradient of 0-50% EtOAc/hexane to give the title compound (919 mg) as a solid; 1H NMR δ 10.66 (1H, s), 7.60 (2H, d), 7.20 (2H, d), 3.83 (3H, s), 3.60 (3H, s), 2.56-2.30 (2H+DMSO, m), 2.00 (2H, m), 1.80 (2H, m), 1.46 (4H, m); MS m/e MH+ 320.

reactant | nitric acid | 6.2 mL | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 7.8 mL | S(O)(O)(=O)=O | H2O4S
reactant | methyl trans-4-phenylcyclohexanecarboxylate | 6940 mg | C1(=CC=CC=C1)[C@@H]1CC[C@H](CC1)C(=O)OC | C14H18O2
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl trans-4-(4-nitrophenyl)cyclohexanecarboxylate | 4445 mg | [N+](=O)([O-])C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(=O)OC | C14H17NO4
